US07074817B2
Ethyl 2-{6-[4-(tert-butyl)phenyl]-1-methyl-1H-indol-3-yl}-2-oxoacetate was prepared from 6-[4-(tert-butyl)phenyl]-1-methyl-1H-indole (0.230 g, 0.874 mmol), oxalyl chloride (0.16 mL, 1.8 mmol), and ethanol (2 mL) following the procedure described in Step 3 of Example 1. The compound was purified by HPLC using 30% ethyl acetate in hexane as the mobile phase and dried for 20 minutes at 60° C. to yield a light yellow solid (0.141 g, 44%). 1HNMR (300 MHz, DMSO-d6): δ 8.5 (s, 1H), 8.2 (d, 1H, J=8.3 Hz), 7.9 (s, 1H), 7.7 (d, 2H, J=7.5 Hz), 7.65 (d, 1H, J=9.0 Hz), 7.5 (d, 2H, J=7.5 Hz), 4.35 (q, 2H, J=7.5 Jz), 3.95 (s, 3H), and 1.3-1.4 ppm (m, 12H).

reactant | 6-[4-(tert-butyl)phenyl]-1-methyl-1H-indole | 0.874 mmol, 0.230 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C2C=CN(C2=C1)C | C19H21N
reactant | oxalyl chloride | 1.8 mmol, 0.16 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | Ethyl 2-{6-[4-(tert-butyl)phenyl]-1-methyl-1H-indol-3-yl}-2-oxoacetate | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C2C(=CN(C2=C1)C)C(C(=O)OCC)=O | C23H25NO3
